US04638067
To 1.24 g (4.27 mmol) of 6,7,8-trifluoro-1,4-dihydro-1-(1-methylcyclopropyl)-4-oxo-3-quinolinecarboxylic acid in 10 ml of acetonitrile was added 0.77 (4.27 mmol) of 3-[(t-butoxycarbonyl)amino]pyrrolidine and 0.63 g (4.27 mmol) of 1,8-diazobicyclo[5.4.0]undec-7-ene. The mixture was refluxed for one hour, cooled, filtered, and the solids washed with ether. The solids were dissolved in 10 ml of acetic acid at 100° C. and 2 ml of 3N hydrochloric acid was added. This mixture was heated at 100° for four hours, concentrated, triturated with 2-propanol, and the solid filtered, washed with ether, and dried (24 hours, 80° C., 125 mmHg) to give 0.90 g of 7-(3-amino-1-pyrrolidinyl)-6,8-difluoro-1,4-dihydro-1-(1-methylcyclopropyl)-4-oxo-3quinolinecarboxylic acid as the hydrochloride salt, mp >300° C.

reactant | 6,7,8-trifluoro-1,4-dihydro-1-(1-methylcyclopropyl)-4-oxo-3-quinolinecarboxylic acid | 4.27 mmol, 1.24 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)C1(CC1)C)C(=O)O)=O | C14H10F3NO3
reactant | 3-[(t-butoxycarbonyl)amino]pyrrolidine | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-(3-amino-1-pyrrolidinyl)-6,8-difluoro-1,4-dihydro-1-(1-methylcyclopropyl)-4-oxo-3quinolinecarboxylic acid | 0.90 g | NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1(CC1)C)C(=O)O)=O)F | C18H19F2N3O3
